US06451821B1
17 g of sodium bicarbonate are added, at a temperature in the region of 20° C., to a suspension of 25.4 g of tert-butyl allylsulphanyl-[(tert-butoxycarbonyl)amino]methylidenecarbamate in 650 cm3 of dichloromethane, followed by addition of a solution of 24.4 g of iodine predissolved in 850 cm3 of dichloromethane. After 72 hours at a temperature in the region of 20° C., 500 cm3 of water and 500 cm3 of saturated sodium bicarbonate solution are added to the reaction medium and the resulting mixture is then extracted with twice 1 dm3 of ethyl acetate. The organic phases are washed with saturated sodium sulphite solution and then with saturated sodium chloride solution, dried over magnesium sulphate, filtered and then concentrated under reduced pressure (1 kPa) at a temperature in the region of 50° C. The residue obtained is crystallized from ethyl acetate. 20.5 g of tert-butyl N-[(4RS)-4-(iodomethyl)-4,5-dihydro-2-thiazolyl]carbamate are obtained in the form of a yellow solid [1H NMR spectrum (300 MHz, (CD3)2SO-d6, δ in ppm): 1.41 (s: 9H); 2.97 (dd, J=11.5 and 7 Hz: 1H); from 3.30 to 3.50 (mt: 3H); 4.12 (mt: 1H); 9.89 (unresolved complex: 1H)].

reactant | sodium bicarbonate | 17 g | C([O-])(O)=O.[Na+]
reactant | tert-butyl allylsulphanyl-[(tert-butoxycarbonyl)amino]methylidenecarbamate | 25.4 g | C(C=C)SC(NC(=O)OC(C)(C)C)=NC(OC(C)(C)C)=O | C14H24N2O4S
reactant | iodine | 24.4 g | II | I2
reactant | water | 500 cm3 | O | H2O
reactant | sodium bicarbonate | 500 cm3 | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 650 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 850 cm3 | ClCCl | CH2Cl2
product | tert-butyl N-[(4RS)-4-(iodomethyl)-4,5-dihydro-2-thiazolyl]carbamate | 20.5 g | ICC1N=C(SC1)NC(OC(C)(C)C)=O | C9H15IN2O2S
